* C:\Users\Usuario\Documents\UdeM\2022-1\repos-electronica\laboratorio\sesion7\bjt_led-driver.asc
Q1 Vout N004 0 0 2N2222
Rb Vin N004 2.7k
Rc Vcc N002 330
V1 Vcc 0 5
Vi Vin 0 PULSE(0 5 500m 1n 1n 500m 1s)
D1 N002 Vout LED_GENERAL
.model D D
.lib C:\Users\Usuario\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2s 0 0.2m
* Analisis
.model LED_GENERAL D (IS=1a RS=3.3 N=1.8)
* Modelo del led
.backanno
.end
