* C:\Users\Usuario\Documents\UdeM\2022-1\repos-electronica\laboratorio\sesion7\bjt_relay-driver.asc
Q1 Vout N002 0 0 2N2222
Rb Vin N002 470
Rc Vcc Vout 50
V1 Vcc 0 9
Vi Vin 0 PULSE(0 5 500m 1n 1n 500m 1s)
.model NPN NPN
.model PNP PNP
.lib C:\Users\Usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2s 0 0.2m
* Analisis
.backanno
.end
